US05157041
A solution of 154 mg of N2 -[3(S)-[[N-(benzyloxycarbonyl)-3-(methylsulphinyl)-L-alanyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N1 -tert.butyl-L-prolinamide N2 -oxide (two diastereomers) in 5 ml of methanol was treated with 84 mg of 3-chloroperbenzoic acid and the solution was stirred at 20° C. for 16 hours. The solvent was removed by evaporation and the residue was partitioned between dichloromethane and 2M sodium hydroxide solution. The organic phase was evaporated and the residue was crystallized from ethyl acetate/n-hexane to give 28 mg of N2 -[3(S)-[[N-(benzyloxycarbonyl)-3-(methylsulphonyl)-L-alanyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N1 -tert.butyl-L-prolinamide N2 -oxide monohydrate; MS: m/e 633 [M+H]+.

reactant | N2 [3(S)-[[N-(benzyloxycarbonyl)-3-(methylsulphinyl)-L-alanyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N1 -tert.butyl-L-prolinamide N2 -oxide | 154 mg | N#N.C(C1=CC=CC=C1)OC(=O)N[C@@H](CS(=O)C)C(=O)N[C@H]([C@@H](C[C@@]1(N(CCC1)C(C)(C)C)C(=O)[NH2]=O)O)CC1=CC=CC=C1
reactant | 3-chloroperbenzoic acid | 84 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methanol | 5 ml | CO | CH4O
product | N2 [3(S)-[[N-(benzyloxycarbonyl)-3-(methylsulphonyl)-L-alanyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N1 -tert.butyl-L-prolinamide N2 -oxide monohydrate | 28 mg | N#N.O.C(C1=CC=CC=C1)OC(=O)N[C@@H](CS(=O)(=O)C)C(=O)N[C@H]([C@@H](C[C@@]1(N(CCC1)C(C)(C)C)C(=O)[NH2]=O)O)CC1=CC=CC=C1 | InChI=1S/C31H44N4O8S.N2.H2O/c1-30(2,3)35-17-11-16-31(35,28(38)34-40)19-26(36)24(18-22-12-7-5-8-13-22)32-27(37)25(21-44(4,41)42)33-29(39)43-20-23-14-9-6-10-15-23;1-2;/h5-10,12-15,24-26,36H,11,16-21,34H2,1-4H3,(H,32,37)(H,33,39);;1H2/t24-,25-,26+,31+;;/m0../s1
